US04278748
Benzotriazol-4-sulphonyl chloride
Benzotriazole-4-sulphonic acid (5 g, 23 mM) was added, in portions, to chlorosulphonic acid (50 ml), whilst keeping the temperature of the acid below 0°. The resulting solution was heated at 120° overnight, cooled and carefully poured onto ice (1000 g). The solid which formed was collected by filtration, washed well with water and dried in vacuo. This material was dissolved in boiling ethyl acetate and decolorized using a small quantity of charcoal. The product crystallized from the ethyl acetate solution after petroleum ether (40° to 60°) was added, as a white solid (3.94 g, 72 percent), m.p. 173° to 175° (uncorr).

reactant | Benzotriazole-4-sulphonic acid | 23 mM, 5 g | N1N=NC2=C1C=CC=C2S(=O)(=O)O | C6H5N3O3S
reactant | chlorosulphonic acid | 50 ml | ClS(=O)(=O)O | ClHO3S
product | Benzotriazol-4-sulphonyl chloride | N1N=NC2=C1C=CC=C2S(=O)(=O)Cl | C6H4ClN3O2S
